US08017630B2
(2S)-2-[2-(4-Dimethylamino-4-phenylcyclohexyl)acetylamino]-3-(1H-indol-3-yl)propanoic acid methyl ester
1-Hydroxybenzotriazole (546 mg, 4.0 mmol), L-tryptophan methyl ester hydrochloride (509 mg, 2.0 mmol) and N-methylmorpholine (0.666 ml, 6.0 mmol) were added to a solution of (4-dimethylamino-4-phenylcyclohexyl)acetic acid hydrochloride (596 mg, 2.0 mmol) in dry dimethylformamide under argon. Dicyclohexylcarbodiimide (834 mg, 4.0 mmol) was added at 0° C. and the mixture was stirred at RT for 4 d. Working up of the mixture was carried out by separating off the solid which had precipitated out (1.1 g), which comprised a mixture of dicyclohexylurea and the hydrochloride of the amide. The filtrate was added to a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). The filtrate of the mixture was extracted by shaking with methylene chloride (3×50 ml) and, after drying, the organic phase was concentrated. An oily crude product was thereby obtained (660 mg), from which it was possible to obtain the product (188 mg) after purification by chromatography on silica gel with EA/methanol (4:1). The substance mixture which had precipitated out at the start of the working up was taken up in methylene chloride and saturated sodium bicarbonate solution. The aqueous phase was extracted with methylene chloride. The organic phase was concentrated (517 mg) and separated by chromatography with EA/methanol (4:1), it being possible for a further fraction of the amide (357 mg) to be isolated. The total yield of the product was 59% (545 mg).

reactant | 1-Hydroxybenzotriazole | 4.0 mmol, 546 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | L-tryptophan methyl ester hydrochloride | 2.0 mmol, 509 mg | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | N-methylmorpholine | 6.0 mmol, 0.666 ml | CN1CCOCC1 | C5H11NO
reactant | (4-dimethylamino-4-phenylcyclohexyl)acetic acid hydrochloride | 2.0 mmol, 596 mg | Cl.CN(C1(CCC(CC1)CC(=O)O)C1=CC=CC=C1)C
reactant | Dicyclohexylcarbodiimide | 4.0 mmol, 834 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (2S)-2-[2-(4-Dimethylamino-4-phenylcyclohexyl)acetylamino]-3-(1H-indol-3-yl)propanoic acid methyl ester | 188 mg | COC([C@H](CC1=CNC2=CC=CC=C12)NC(CC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O)=O | C28H35N3O3
